US06610711B2
3-(Tetrahydropyran-2-yl)propanoic Acid
A 2M aqueous solution of lithium hydroxide (4 ml) was added to a solution of methyl 3-(tetrahydropyran-2-yl)propanoate (Preparation 25, 460 mg, 2.67 mmol) in tetrahydrofuran (16 ml) and the reaction mixture was heated under reflux for 10 h. The cooled reaction mixture was acidified with 2N aqueous hydrochloric acid to pH 1 and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with brine (30 ml), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a colourless oil (460 mg, 67%).

reactant | lithium hydroxide | 4 ml | [OH-].[Li+]
reactant | methyl 3-(tetrahydropyran-2-yl)propanoate | 2.67 mmol, 460 mg | O1C(CCCC1)CCC(=O)OC | C9H16O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 3-(Tetrahydropyran-2-yl)propanoic Acid | 460 mg, 67% | O1C(CCCC1)CCC(=O)O | C8H14O3
